US04939133
A mixture of 20 g (78 mmol) of 4-[2-[3,4-dimethoxyphenyl)ethyl]aniline which is prepared in Preparation 1 above and 300 ml of 48% hydrobromic acid is stirred at reflux under nitrogen for seven hours and at room temperature overnight. The resultant precipitate is collected, washed with ether, and redissolved in 1 N·NaOH. The solution is acidified to pH 6 with glacial HOAc and the resultant precipitate is collected as crude product. Recrystallization from H2O and then from MeOH yields the 4-[2-(3,4-dihydroxyphenyl)ethyl]benzenamine as an acetate salt; yield, 13.4 g (76%), mp 216°-218° C.

reactant | 4-[2-[3,4-dimethoxyphenyl)ethyl]aniline | 78 mmol, 20 g | COC=1C=C(C=CC1OC)CCC1=CC=C(N)C=C1 | C16H19NO2
solvent | hydrobromic acid | 300 ml | Br | BrH
product | 4-[2-(3,4-dihydroxyphenyl)ethyl]benzenamine | OC=1C=C(C=CC1O)CCC1=CC=C(C=C1)N | C14H15NO2
